US06436915B1
Synthesis of 3,5-Diamino-4-[(3-chloro-4-methoxyphenyl)hydrazono]pyrazole
This compound was prepared using 117 mg (0.5 mmol) of 2-[(3-chloro-4-methoxy-phenyl)hydrazono]malononitrile, which was derived from 3-chloro-4-anisidine (157 mg, 1.0 mmol) and malononitrile (1.5 mmol) as described in Example 8, and hydrazine hydrate. Precipitate formed in the reaction tube immediately after the addition of hydrazine hydrate. The resulting solid was isolated by filtration, washed with ethanol, and dried to yield 93 mg (70%) of the title compound as a yellow solid.

reactant | 2-[(3-chloro-4-methoxy-phenyl)hydrazono]malononitrile | 0.5 mmol, 117 mg | ClC=1C=C(C=CC1OC)NN=C(C#N)C#N | C10H7ClN4O
reactant | 3-chloro-4-anisidine | 1.0 mmol, 157 mg | ClC=1C=C(OC)C=CC1N | C7H8ClNO
reactant | malononitrile | 1.5 mmol | C(CC#N)#N | C3H2N2
reactant | hydrazine hydrate | O.NN
product | 3,5-Diamino-4-[(3-chloro-4-methoxyphenyl)hydrazono]pyrazole | 93 mg, 70% | NC1=NN=C(C1=NNC1=CC(=C(C=C1)OC)Cl)N | C10H11ClN6O
